US06673811B1
A solution of diethyl malonate (72 g, 0.436 mol) in DME (200 mL) is added dropwise to a magnetically stirred suspension of NaH (23 g, 0.58 mol) in dry 1,2-dimethoxyethane (DME, 350 mL). The mixture is stirred at room temperature for 1 hour and then a solution of 2-chloro-5-methyl-3-nitro-pyridine (50 g, 0.290 mol) in DME (100 mL) is added to give a dark red solution. After stirring for 18 hours, the reaction mixture is poured into ice-cold water and acidified to pH 3 with 6N HCl solution. The mixture is extracted with ethyl acetate. The organic phase is washed with water, brine, dried over Na2SO4, and concentrated. The excess diethymalonate is removed at 50° C. under high vacuum to give 2-(5-Methyl-3-nitro-pyridin-2-yl)-malonic acid diethyl ester i as a dark red-colored thick residue; 1H NMR (300 MHz, CDCl3) δ 1.28 (t, J=9 Hz, 6H), 4.26 (q, J=9 Hz, 4H), 8.27 (s, 1H), 8.63 (s, 1H).

reactant | diethyl malonate | 0.436 mol, 72 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaH | 0.58 mol, 23 g | [H-].[Na+]
reactant | 2-chloro-5-methyl-3-nitro-pyridine | 0.290 mol, 50 g | ClC1=NC=C(C=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | HCl | 6N | Cl | ClH
solvent | DME | 200 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 350 mL | COCCOC | C4H10O2
solvent | DME | 100 mL | COCCOC | C4H10O2
product | 2-(5-Methyl-3-nitro-pyridin-2-yl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C1=NC=C(C=C1[N+](=O)[O-])C)=O | C13H16N2O6
